Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a PMH Alzheimer's dementia, CAD s/p CABG, and Afib, 
presenting from ___ s/p fall found to have R orbital fracture.  
 History primarily per ED report as patient unable to recount 
details:  
 Pt lives at ___ at ___ (assisted living facility). 
He is supervised, but allowed to leave is he desires. He had 
recently been hospitalized for 3 weeks for pneumonia and was 
discharged to rehab on augmentin. He has been walking without 
his walker for 1.5 weeks.  
 Patient was reportedly wandering on the street with unsteady 
gait per bystanders and feel and hit the right side of his face 
with loss of consciousness. Pt recalls feeling lightheaded and 
then falling, in the ED he reported tripping. He was sent to the 
___ ED. OSH Head/Neck CT showed R orbital fracture 
without entrapment. He received a tetanus booster and Tylenol 
for headache. He had a 5 cm R eye laceration sutured and was 
transferred to ___ for further management. Pt endorses feeling 
a little dizzy, denies HA, vision changes, fevers/chills, 
CP/palpitations, cough/SOB, N/V, abdominal pain, 
diarrhea/constipation, dysuria/urinary frequency.  
 Of note, in the ED pt requested to go home but was disoriented 
and could not elaborate on what would happen if he were to leave 
the hospital against medical advice. Patient was deemed to lack 
capacity. Son (HCP) was in agreement and stated that chemical 
restraints could be used if necessary.  
 In the ED, initial VS were: 98 83 158/66 18 97% RA  
 Exam notable for:  
 ___: Alert, oriented to person and year, not to ___ (said 
he was in a ___ store)  
 HEENT: Significant periorbital edema, no tenderness to 
palpation, EOMI, visual acuity ___ R eye, ___ L eye  
 Neuro: CN II-XII grossly intact, ___ strength in ___ ___, 
decreased sensation in R foot  
 Labs showed:  
 1) Urine tox negative, serum tox positive for APAP  
 2) U/A: 18 WBC, 9 RBC, trace protein, no bacteria  
 3) CBC: WBC 18.5, Hb 12.7, plt 296, 79% PMN  
 4) Troponin T <0.01  
 5) CK 67, MB 3  
 Imaging showed:  
 1) CXR: RML opacity may be atelectasis, difficult to exclude 
pneumonia.  
 2) OSH CT Head Reviewed with ___ radiologist:  
 complex right facial fracture with fractures of lateral, 
medial, and inferior orbital walls and associated fractures of 
the right maxillary sinus. No evidence of orbital content 
herniation or entrapment. There is Right orbital extraconal 
hematoma. The globe is intact.  
 Received:  
 ___ 21:21 PO/NG Donepezil 10 mg  
 ___ 21:21 PO/NG Atorvastatin 40 mg  
 ___ 21:21 PO/NG Memantine 5 mg  
 ___ 21:21 PO/NG Amoxicillin-Clavulanic Acid ___ mg  
 ___ 21:21 IV Piperacillin-Tazobactam Started  
 ___ 21:21 PO OLANZapine 5 mg  
 ___ 22:26 IV Piperacillin-Tazobactam 4.5 g  
 ___ 22:26 IV Vancomycin  
 ___ 00:10 IV Vancomycin 1 mg  
 ___ 00:33 PO OLANZapine 5 mg  
 The following were consulted:  
 1) Ophtho: Fracture management per plastics. Follow up with 
ophthalmology as outpt if needed  
 2) Plastics: No acute surgical intervention required. Sinus 
precautions. Follow up with Dr. ___ in Clinic ___  
 3) Trauma: will follow  
 Transfer VS were: 97.6 91 117/73 16 99% RA  
 
 On arrival to the floor, patient reports mild dizziness.  
 
Past Medical History:
Alzheimer's dementia  
CAD s/p CABG  
Atrial fibrillation
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
===================================
ADMISSION EXAM:
===================================
VS: 97.1 AdultAxillary 150 / 75 L Lying 84 16 99 Ra  
___: NAD  
HEENT: Large ecchymoses surrounding R eye, EOMI, PERRL, 
anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1 + S2, ___ SEM loudest LUSB  
LUNGS: Decreased breath sounds right lung, left lung CTA, no 
wheezes, breathing comfortably on RA  
ABDOMEN: SNTND, +BS, no rebound/guarding  
EXTREMITIES: WWP, no ___ edema, PPP  
NEURO: A&Ox2 (name, hospital, year), CNII-XII intact, ___ 
strength in ___ b/l. ___ backwards. Did not know president.  
SKIN: no rashes/lesions  

===================================
DISCHARGE EXAM:
===================================
Vitals:  98.3 139 / 75 66 20 96%Ra 
___: NAD, large bruise on right eye extending down to 
mandible on R side.
HEENT: Large ecchymoses surrounding R eye, R conjunctival 
hemorrhage-unchanged. EOMI, PERRL, anicteric sclera, pink 
conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: regular rate, irregular rhythm (unclear if ectopy), S1 + 
S2, ___ SEM loudest LUSB with possible radiation to the 
carotids. Carotids have adequate upstroke, no parvus or tardus.
LUNGS: Decreased breath sounds right lung, left lung CTA, no 
wheezes, breathing comfortably on RA  
ABDOMEN: SNTND, +BS, no rebound/guarding  
EXTREMITIES: WWP, no ___ edema, PPP  
NEURO: AOx2-3. ___ backward, recall ___ at 2 minutes. UE 
___ (hand grip, triceps/biceps), gait stable.
 
Pertinent Results:
=========================================
ADMISSION LABS:
=========================================
___ 07:45PM BLOOD WBC-18.5* RBC-4.04* Hgb-12.7* Hct-39.7* 
MCV-98 MCH-31.4 MCHC-32.0 RDW-15.7* RDWSD-57.1* Plt ___
___ 07:45PM BLOOD Neuts-79.9* Lymphs-10.5* Monos-8.3 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-14.76* AbsLymp-1.93 
AbsMono-1.53* AbsEos-0.07 AbsBaso-0.03
___ 07:45PM BLOOD Glucose-125* UreaN-12 Creat-0.5 Na-142 
K-4.1 Cl-99 HCO3-24 AnGap-19*
___ 07:45PM BLOOD CK(CPK)-67
___ 06:10AM BLOOD cTropnT-<0.01
___ 07:45PM BLOOD cTropnT-<0.01
___ 07:45PM BLOOD CK-MB-3
___ 07:45PM BLOOD Calcium-9.7 Phos-3.8 Mg-1.7
___ 07:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

=========================================
INTERVAL LABS:
=========================================
___ 05:53AM BLOOD ALT-59* AST-55* LD(LDH)-229 AlkPhos-78 
TotBili-0.8
___ 05:53AM BLOOD calTIBC-270 Ferritn-422* TRF-208

=========================================
DISCHARGE LABS:
=========================================
___ 05:55AM BLOOD WBC-8.1 RBC-3.32* Hgb-10.6* Hct-32.7* 
MCV-99* MCH-31.9 MCHC-32.4 RDW-15.8* RDWSD-57.0* Plt ___
___ 06:10AM BLOOD Glucose-86 UreaN-11 Creat-0.5 Na-145 
K-3.5 Cl-102 HCO3-26 AnGap-17*
___ 06:10AM BLOOD ALT-59* AST-57* AlkPhos-79 TotBili-0.9

=========================================
IMAGING:
=========================================
___: CXR
Right middle lobe opacity may represent atelectasis, however 
difficult to 
exclude superimposed pneumonia.  No displaced rib fractures 
noted. 

___: CT head, non-contrast
Outside record, no read in ___ system

=========================================
MICROBIOLOGY:
=========================================
___ 9:25 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:10 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 6:19 pm
      URINE      TAKEN FROM ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
=======================
 BRIEF SUMMARY 
=======================
Mr. ___ is an ___ year old man with a history of CABGx2 (last 
___, Alzheimer's dementia, and recent pneumonia, who presents 
after a fall, concerning for syncopal episode, complicated by an 
orbital fracture. He was seen and evaluated by Ophthalmology and 
Plastic Surgery on presentation who determined that his fracture 
could be managed non-operatively for the time, with scheduled 
follow up after discharge. He was admitted to ___ for 
further work up of syncope which did not reveal any concerning 
arrhythmia or structural heart disease. His course was 
complicated by hyperactive delirium. 

========================
 PROBLEM-BASED SUMMARY
========================
#Orbital fracture: 
Per Ophthalmology and Plastic Surgery, will pursue non-operative 
management for now. ___ use Tylenol for pain control, would 
hesitate to use anything more than oxycodone 2.5mg if needed 
breakthrough pain, given concern for exacerbating delirium. Will 
follow up with Ophthalmology and Plastic Surgery as outpatient.

#Alzheimers 
Per family, sounds like he is approaching moderate to severe 
range. Given his fall and his mental status changes as an 
inpatient, he was re-evaluated with the help of Occupational 
Therapy, Case Management, and his family for the best living 
situation upon discharge. Prior to admission he was in an 
independent unit at At___ and will likely require a higher level 
of care. Ultimately it was determined that he would be 
discharged to rehab for further physical therapy, followed by 
reconsideration of returning to a higher level or daily care at 
Atria or another facility. Donepezil and memantine were 
continued as an inpatient, Ensure shakes were added to his diet 
for adequate nutrition given his reported history of a 30lb 
weight loss prior to his previous episode of pneumonia.

#Delirium, hyperactive:
Was at high risk given his underlying Alzheimer's Disease. Per 
family, at baseline he does become disoriented but it is usually 
a more 'happy' state. While inpatient he became acutely confused 
and distrustful of care providers, and was treated with 
re-direction, a 1:1 sitter (susbsequently discontinued after 
improvement), delirium precautions, family visitation, and 
Olanzapine 5mg daily. A non-contrast head CT on admission was 
negative for acute intracranial process and he did not develop 
any other signs suggestive of an evolving intracranial bleed.

#Syncope 
Concern for syncope vs mechanical fall, especially because he 
could not break his fall and per family was cleared by ___ 
earlier in the week. Likely causes were dehydration/orthostasis 
vs cardiogenic. Troponins were negative, ECG on admission showed 
PR interval at upper limit of normal (185ms) but no other 
abnormality. No arrhythmias were noted on telemetry. Orthostatic 
vitals showed an increase of HR from 78 to 92, but no drop in 
sBP. Given a systolic murmur on exam, a TTE was conducted which 
showed normal biventricular cavity sizes with preserved regional 
and global biventricular systolic function, mild-moderate aortic 
regurgitation, and mildly dilated ascending aorta, with no 
structural cardiac cause of syncope identified. Overall, workup 
for syncope was unremarkable and there was very low suspicion of 
other causes such as PE.

#Pneumonia 
Diagnosed during prior hospitalization, no active symptoms. Low 
concern for lung mass given reports of serial exams decreasing 
in size and negative biopsy x2. Finished a course of Augmentin 
on ___.

#Elevated LFTs 
Unclear history. On admission, AST/ALT 56/68, ALP 86, consistent 
with mild hepatocellular pattern, not suggestive of 
EtOH-induced. Could be antibiotic-induced or low level of 
congestive hepatopathy given significant cardiac history. 
Further work up not warranted as inpatient, but would merit 
rechecking LFT's as an outpatient.

========================
 TRANSITIONAL ISSUES:
========================
 - Determine what level of care he will require at Atria prior 
to discharge from rehab
 - Follow up with Primary Care Physician: 1) routine 
post-discharge follow up, 2) ongoing care for Alzheimer's, 3) 
consider repeat LFT's now that antibiotic course completed. 

#CODE: Full (confirmed) 
#CONTACT: Son/HCP ___ ___ ___ 

ATTENDING PHYSICIAN HOSPITAL ___ ADDENDUM

Patient seen at 11am

[x] I saw and examined the patient, and discussed the assessment 
& treatment plan with Dr. ___.
[x] I also reviewed the interval history, documentation, 
physical exam, assessment & treatment plan as documented by Dr. 
___ today, and agree, except for the changes below.

Today I have discussed this case and care plan with: [x] 
patient, [ ] family, [x] nurse, [ ] case management, [x] 
PCP/other provider

[x] The patient is safe to discharge today, and I spent >30min 
in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QD 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Memantine 5 mg PO BID 
6. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Donepezil 10 mg PO QD  
4.  Memantine 5 mg PO BID  
5.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
================== 
PRIMARY DIAGNOSIS 
================== 
Orbital fracture  
 
==================== 
 SECONDARY DIAGNOSES 
==================== 
Alzheimer's Disease 
Delirium 
Likely Syncope 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

================================
 WHY WAS I IN THE HOSPITAL?
================================
 - You came to the hospital because you fell and fractured one 
of the bones in your head around your eye.

================================
 WHAT HAPPENED IN THE HOSPITAL?
================================
 - You were evaluated by Ophthalmology and Plastic Surgery who 
determined that you did not need an operation at this time, but 
will follow up with you once you go back home.
 - You were evaluated for why you might have fallen in the first 
___. Testing of your heart did not show any concerning 
abnormalities.

================================
 WHAT SHOULD I DO WHEN I GO HOME?
================================
 - Take your medications as prescribed.
 - Please follow up with your Primary Care Physician, 
___, and Plastic Surgery.

We wish you the best!
 -Your Care Team at ___

 
Followup Instructions:
___